### PR TITLE
feat: verify insertMany method for adding lists to HashMaps

### PR DESCRIPTION
**Pull request by monsterkrampe**
This PR verifies the `insertMany` method on `HashMap`s for the special case of inserting lists.

### CODE REVIEW

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 1]
```diff
@@ -832,13 +832,196 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  intro h'
+  apply containsKey_of_beq h' k_eq
+
+theorem get_insertList_not_mem_list [LawfulBEq α] [LawfulHashable α] {l: List ((a:α) × (β a))} {k k': α} {k_eq: k == k'} {mem_list: ¬ k ∈ (l.map (Sigma.fst))} (h: m.1.WF):
+    (h': m.contains k = true) → (m.insertList l).get k' (contains_insertList_of_contains_map m h k_eq h') = m.get k' (contains_of_beq m k_eq h h') := by
+  simp_to_model using getValueCast_insertList_not_toInsert_mem
+
+theorem getKey?_insertList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {l : List ((a:α) × (β a))} {k : α} :
+    (m.insertList l).getKey? k =
+      if (l.map Sigma.fst).contains k then (l.map Sigma.fst).reverse.find? (fun a => k == a) else m.getKey? k := by
```
Comment (monsterkrampe) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:960]: Would it be preferred to split this into two theorems rather than using the if? (same below)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -832,13 +832,196 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  simp_to_model using List.getKey?_insertList
+
+theorem getKey?_insertList_lawful [LawfulBEq α] [LawfulHashable α] (h : m.1.WF) {l : List ((a:α) × (β a))} {k : α} :
```
Comment (monsterkrampe) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:963]: Is it ok to have a `lawful` variant of the theorem? The statement is quite a bit simpler than for the more general variant above.

File: src/Std/Data/DHashMap/Internal/Defs.lean [hunk 3]
```diff
@@ -352,6 +352,14 @@ where
     r := ⟨r.1.insert a b, fun _ h hm => h (r.2 _ h hm)⟩
   return r
 
+/-- Internal implementation detail of the hash map -/
+def insertList [BEq α] [Hashable α]
+    (m : Raw₀ α β) (l : List ((a : α) × β a)) : Raw₀ α β := Id.run do
+  let mut r := m
+  for ⟨a,b⟩ in l do
+    r:= r.insert a b
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Internal/Defs.lean:360]:
```suggestion
    r := r.insert a b
```

File: src/Std/Data/DHashMap/Internal/Defs.lean [hunk 4]
```diff
@@ -352,6 +352,14 @@ where
...
+  return r
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Internal/Defs.lean:361]: It's not really essentially, but for such a simple for loop I generally prefer using a `List.fold`.

Comment (kim-em) [inline src/Std/Data/DHashMap/Internal/Defs.lean:361]: It's not really essentially, but for such a simple for loop I generally prefer using a `List.fold`.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 5]
```diff
@@ -16,6 +17,22 @@ the contents of this file.
 File contents: Verification of associative lists
 -/
 
+
+-- TODO: should this go somwhere else?
+theorem List.find?_isSome_of_map_fst_contains {α : Type u} {β : α -> Type v} [BEq α] {l : List ((a : α) × β a)} {k : α} :
+    (l.map Sigma.fst).contains k ->
+      ((l.map Sigma.fst).reverse.find? (fun a => k == a)).isSome := by
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:24]: Do you really care about `.find?.isSome`? Presumably there is a simp lemma that reduces this to `List.any`.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 6]
```diff
@@ -163,6 +180,34 @@ theorem getValueCast?_cons_self [BEq α] [LawfulBEq α] {l : List ((a : α) × 
     getValueCast? k (⟨k, v⟩ :: l) = some v := by
   rw [getValueCast?_cons_of_true BEq.refl, cast_eq]
 
+theorem getValueCast?_mem [BEq α] [LawfulBEq α] {l : List ((a : α) × β a)} {k k': α} {v : β k} {k_eq: k == k'} {mem: ⟨k,v⟩ ∈ l} {distinct: List.Pairwise (fun a b => ! a.1 == b.1) l}: getValueCast? k' l = some (cast (by congr; apply LawfulBEq.eq_of_beq k_eq) v) := by
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:183]:
```suggestion
theorem getValueCast?_mem [BEq α] [LawfulBEq α] {l : List ((a : α) × β a)} {k k' : α} {v : β k} {k_eq: k == k'} {mem: ⟨k,v⟩ ∈ l} {distinct: List.Pairwise (fun a b => ! a.1 == b.1) l}: getValueCast? k' l = some (cast (by congr; apply LawfulBEq.eq_of_beq k_eq) v) := by
```
and etc throughout.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 7]
```diff
@@ -16,6 +17,22 @@ the contents of this file.
 File contents: Verification of associative lists
 -/
 
+
+-- TODO: should this go somwhere else?
+theorem List.find?_isSome_of_map_fst_contains {α : Type u} {β : α -> Type v} [BEq α] {l : List ((a : α) × β a)} {k : α} :
+    (l.map Sigma.fst).contains k ->
+      ((l.map Sigma.fst).reverse.find? (fun a => k == a)).isSome := by
+  intro h
+  simp
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:26]: All non-terminal `simp` or `simp at` calls must be converted into `simp only` calls via `simp?`. Otherwise the proofs are too fragile against changes to the simp set.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 8]
```diff
@@ -979,6 +1200,68 @@ theorem insertEntry_of_containsKey_eq_false [BEq α] {l : List ((a : α) × β a
     (h : containsKey k l = false) : insertEntry k v l = ⟨k, v⟩ :: l := by
   simp [insertEntry, h]
 
+theorem insertEntry_of_containsKey_eq_false_perm [BEq α] {l : List ((a : α) × β a)} {k : α} {v : β k}
+    (h : containsKey k l = false) : Perm (insertEntry k v l) (⟨k,v⟩::l) := by
+  cases l with
+  | nil => simp
+  | cons hd tl => simp[insertEntry, h]
+
+theorem insertEntry_mem_of_different_keys [BEq α] [LawfulBEq α] {l : List ((a : α) × β a)} {k : α} {v : β k} {a: ((a : α) × β a)} {h: ¬ ⟨k,v⟩ = a} {distinct: List.Pairwise (fun a b => ! (a.1 == b.1) ) l}: ⟨k, v⟩ ∈ insertEntry a.fst a.snd l ↔ ⟨k,v⟩ ∈ l ∧ (k == a.fst) = false := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:1209]: As I'm sure you've noticed these proofs characterizing membership are long and complicated. But in fact you should be able to do without them. You need these two pieces of infrastructure:
```lean
theorem DistinctKeys.insertList [BEq α] [PartialEquivBEq α] {l₁ l₂ : List ((a : α) × β a)} (h : DistinctKeys l₁) :
    DistinctKeys (insertList l₁ l₂) := by
  induction l₂ using assoc_induction generalizing l₁
  · simpa [insertList]
  · rename_i k v t ih
    rw [insertList.eq_def]
    exact ih h.insertEntry

theorem insertList_cons_perm [BEq α] [EquivBEq α] (l₁ l₂ : List ((a : α) × β a))
    (p : (a : α) × β a) (hl₁ : DistinctKeys l₁) (hl₂ : DistinctKeys (p :: l₂)) :
    (insertList l₁ (p :: l₂)).Perm (insertEntry p.1 p.2 (insertList l₁ l₂)) := by
  induction l₂ generalizing p l₁
  · simp [insertList]
  · rename_i h t ih
    rw [insertList]
    refine (ih _ _ hl₁.insertEntry hl₂.tail).trans
      ((insertEntry_of_perm hl₁.insertList
        (ih _ _ hl₁ (distinctKeys_of_sublist (by simp) hl₂))).trans
      (List.Perm.trans ?_ (insertEntry_of_perm hl₁.insertList.insertEntry
        (ih _ _ hl₁ (distinctKeys_of_sublist (by simp) hl₂)).symm)))
    apply getEntry?_ext hl₁.insertList.insertEntry.insertEntry
      hl₁.insertList.insertEntry.insertEntry (fun k => ?_)
    simp only [getEntry?_insertEntry]
    split <;> rename_i hp <;> split <;> rename_i hh <;> try rfl
    rw [DistinctKeys.def] at hl₂
    have := List.rel_of_pairwise_cons hl₂ (List.mem_cons_self _ _)
    simp [BEq.trans hh (BEq.symm hp)] at this
```

What this lemma essentially does is commute `insertList` and `insertEntry` past each other.

This will allow you do to "normal" induction proofs about `insertList`. As an example, the proof of `getValueCast?_insertList_toInsert_mem` is straightforward using this approach:

```lean
theorem getValueCast?_insertList_toInsert_mem [BEq α] [LawfulBEq α] (l toInsert: List ((a : α) × β a)) {k k': α} {k_eq: k == k'} {v: β k}
    {distinct: List.Pairwise (fun a b => (a.1 == b.1) = false) toInsert} {distinct2: DistinctKeys l} {mem: ⟨k,v⟩ ∈ toInsert}: getValueCast? k' (insertList l toInsert) = some (cast (by congr;apply LawfulBEq.eq_of_beq k_eq) v) := by
  rw [← DistinctKeys.def] at distinct
  induction mem
  · rename_i l'
    rw [getValueCast?_of_perm distinct2.insertList (insertList_cons_perm _ _ _ distinct2 distinct)]
    simp [k_eq, getValueCast?_insertEntry]
  · rename_i p l' hl' ih
    rw [getValueCast?_of_perm distinct2.insertList (insertList_cons_perm _ _ _ distinct2 distinct)]
    rw [getValueCast?_insertEntry, dif_neg, ih distinct.tail]
    have := distinct.containsKey_eq_false
    rw [containsKey_eq_false_iff] at this
    simpa using BEq.neq_of_neq_of_beq (this _ hl') k_eq
```

Using this approach, you should hopefully be able to drastically reduce the total length of the proofs in this file.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 9]
```diff
@@ -832,13 +832,196 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+
+
+theorem contains_of_contains_insertList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {l: List ((a:α) × (β a))} {k: α} :
+    (m.insertList l).contains k → (l.map Sigma.fst).contains k = false → m.contains k := by
+  simp_to_model using List.containsKey_of_containsKey_insertList
+
+theorem contains_insertList_of_contains_map [LawfulBEq α] [LawfulHashable α] (h : m.1.WF) {l: List ((a:α) × (β a))} {k k': α} (k_eq: k == k'):
+    m.contains k = true → (m.insertList l).contains k' := by
+  simp_to_model using contains_insertList_of_contains_first
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:917]: Note that importantly you are still missing the `Const.get`/`Const.get!`/`Const.getD`/`Const.get?` variants of all of the lemmas which do not assume `LawfulBEq`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 10]
```diff
@@ -832,13 +832,196 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+theorem get?_insertList_mem_list [LawfulBEq α] [LawfulHashable α] {l: List ((a:α) × (β a))} {k k': α} {v: β k} {distinct: List.Pairwise (fun a b => ! a.1 == b.1) l} {k_eq: k == k'} {mem: ⟨k,v⟩ ∈ l} (h: m.1.WF):
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:918]: `LawfulBEq` implies `LawfulHashable`, so no need to assume it again here.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 11]
```diff
@@ -832,13 +832,196 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+theorem contains_insertList_of_mem_list [LawfulBEq α] [LawfulHashable α] (h : m.1.WF) {l: List ((a:α) × (β a))} {k k': α} (k_eq: k == k') {v: β k}:
+    ⟨k,v⟩ ∈ l → (m.insertList l).contains k' := by
+  simp_to_model using contains_insertList_of_mem
+
+
+theorem contains_of_contains_insertList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {l: List ((a:α) × (β a))} {k: α} :
+    (m.insertList l).contains k → (l.map Sigma.fst).contains k = false → m.contains k := by
+  simp_to_model using List.containsKey_of_containsKey_insertList
+
+theorem contains_insertList_of_contains_map [LawfulBEq α] [LawfulHashable α] (h : m.1.WF) {l: List ((a:α) × (β a))} {k k': α} (k_eq: k == k'):
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:914]: Lemmas about `contains` must not assume `LawfulBEq`, only `EquivBEq`.

File: src/Std/Data/DHashMap/Basic.lean [hunk 12]
```diff
@@ -285,6 +285,11 @@ but will later become a primitive operation.
   ⟨(Raw₀.insertMany ⟨m.1, m.2.size_buckets_pos⟩ l).1,
    (Raw₀.insertMany ⟨m.1, m.2.size_buckets_pos⟩ l).2 _ Raw.WF.insert₀ m.2⟩
 
+@[inline, inherit_doc Raw.insertList] def insertList (m : DHashMap α β)
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Basic.lean]: I changed that. It remains open how to name the lemmas. I kept ```insertList``` for now in the name. Using just ```insertMany``` seems impractical in case someone verifies insertList for arrays, trees etc. ```insertMany_list``` seemed a bit long

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 9 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:878]: Does it make sense to combine ```Const.get``` with ```insertMany```? I would only combine them with ```Const.insertMany``` or else one would have to cast the list to use ```insertMany``` and why wouldn't you use then the Const version anyway.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean (hunk 6 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean]: I went through all our changes now fixing the spacing around colons. I hope I did not miss anything :)

File: src/Std/Data/DHashMap/Internal/List/Associative.lean (hunk 8 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean]: This makes things way easier indeed. Thank you! :)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 9 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: I see now why. Added.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 13]
```diff
@@ -830,15 +831,531 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+
+theorem insertMany_list_isEmpty [EquivBEq α] [LawfulHashable α]
+    {l : List ((a : α) × (β a))} (h : m.1.WF) :
+    (m.insertMany l).1.1.isEmpty ↔ m.1.isEmpty ∧ l.isEmpty := by
+  simp_to_model using List.insertList_isEmpty
+
+section
+variable {β: Type v} (m: Raw₀ α (fun _ => β))
+
+theorem get?_insertMany_list_not_mem_const [EquivBEq α] [LawfulHashable α]
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:1009]: This theorem appers twice for `Const.get` for general `insertMany` and for  `Const.get` for `Const.insertMany`, which would collapse via this name. I introduced the const to differentiate between the normal `get` and this one, though I copied it also into the results in the `Const` namespace.

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 14]
```diff
@@ -706,6 +706,29 @@ theorem wfImp_filter [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α] {m
   rw [filter_eq_filterₘ]
   exact wfImp_filterₘ h
 
+/-! # `insertListₘ` -/
+theorem wfImp_insertListₘ [BEq α] [Hashable α] [EquivBEq α][LawfulHashable α] {m : Raw₀ α β} {l : List ((a : α) × β a)} (h : Raw.WFImp m.1) : Raw.WFImp (m.insertListₘ l).1 := by
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/WF.lean:710]: I have WordWrapper activated in my vs code and then the ruler isn't moved in the wrapped line, but thats probably an issue only affecting very few users. I can keep an eye on that.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 15]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+theorem getKeyD_insertMany_list_of_mem [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((a : α) × β a)}
+    {k k' fallback : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ (l.map Sigma.fst)) :
+    (m.insertMany l).1.getKeyD k' fallback = k := by
+  simp_to_model using getKeyD_insertList_of_mem
+
+theorem size_insertMany_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((a : α) × β a)} {distinct : List.Pairwise (fun a b => (a.1 == b.1) = false) l}:
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:987]:
```suggestion
    {l : List ((a : α) × β a)} {distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)} :
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 16]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    (∀ (a : α), ¬ (m.contains a ∧ (l.map Sigma.fst).contains a)) →
+    (m.insertMany l).1.1.size = m.1.size + l.length := by
+  simp_to_model using length_insertList
+
+theorem isEmpty_insertMany_list_eq_false_of_isEmpty_eq_false [EquivBEq α] [LawfulHashable α]
+    (h : m.1.WF) {l : List ((a : α) × β a)}:
+    (m.1.isEmpty = false) → (m.insertMany l).1.1.isEmpty  = false := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:994]:
```suggestion
    (m.1.isEmpty = false) → (m.insertMany l).1.1.isEmpty = false := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 17]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  simp_to_model using isEmpty_insertList_eq_false_of_isEmpty_eq_false
+
+theorem isEmpty_insertMany_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((a : α) × β a)} :
+    (m.insertMany l).1.1.isEmpty ↔ m.1.isEmpty ∧ l.isEmpty := by
+  simp_to_model using isEmpty_insertList
+
+section
+variable {β: Type v} (m: Raw₀ α (fun _ => β))
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1003]:
```suggestion
variable {β : Type v} (m : Raw₀ α (fun _ => β))
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 18]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+
+theorem get?_insertMany_list_of_contains_eq_false_const [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1005]: Okay, I see the problem with naming these lemmas. I think the (admittedly slighly crazy) scheme we use for the naming here would be that the lemma lives in the namespace of the first thing that appears in the name and then other relevant namespaces are included in the theorem name as appropriate. So this lemma would be called `Const.get?_insertMany_list_of_contains_eq_false` and the lemma you're currently calling `Const.get?_insertMany_list_of_contains_eq_false` would be called `Const.get?_constInsertMany_list_of_contains_eq_false`. Luckily, it's unlikely that end users will need to interact with these lemmas directly.

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 19]
```diff
@@ -706,6 +706,32 @@ theorem wfImp_filter [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α] {m
   rw [filter_eq_filterₘ]
   exact wfImp_filterₘ h
 
+/-! # `insertListₘ` -/
+
+theorem wfImp_insertListₘ [BEq α] [Hashable α] [EquivBEq α][LawfulHashable α] {m : Raw₀ α β}
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean:711]: I think this lemma is not needed?

File: src/Std/Data/DHashMap/Internal/WF.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/WF.lean]: If I'm understanding you correctly this only occurs if your editor window is less than 100 columns wide? If so, yes, I don't think many users do it that way :)

File: src/Std/Data/DHashMap/Internal/List/Associative.lean (hunk 7 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean]: Should be addressed (if we did not miss anything).

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 10 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: This has been addressed as far as I can see.

File: src/Std/Data/DHashMap/Internal/WF.lean (hunk 19 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/WF.lean]: Indeed, good catch! :)

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 20]
```diff
@@ -1827,4 +1903,1213 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+@[simp]
+theorem sigma_fst_after_prod_toSigma_eq_prod_fst :
+    Sigma.fst ∘ Prod.toSigma = @Prod.fst α β := by
+  apply funext
+  simp [Prod.toSigma]
+
+-- TODO: maybe insertList_prod would be a better name?
+/-- Internal implementation detail of the hash map -/
+def insertListConst [BEq α] (l: List ((_ : α) × β)) (toInsert: List (α × β)) : List ((_ : α) × β) :=
+  insertList l toInsert.toSigma
```
Comment (monsterkrampe) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2462]: The machinery around `insertListConst` mostly comes down to mappings between `Prod` and `Sigma`. 
Maybe it would be appreciated to at least have `Prod.toSigma` and somethings like `sigma_fst_after_prod_toSigma_eq_prod_fst` at a more appropriate place in the codebase. (Note that mathlib already features `Prod.toSigma`.)
What would be your suggestion to go about this?
I felt like this was making the work around `insertListConst` a lot easier with fewer auxiliary theorems. I would also be happy with only having this in the scope of this file though :)

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean:2462]: Yes, I agree that having `Prod.toSigma` makes a lot of sense. In the interest of keeping this PR simple, I would suggest keeping the definition in this file for now, with the goal of "promoting" it to a public API in the future. I'm not completely sold on `List.toSigma`, I think the only thing that having this definition does is make you unfold it everywhere. So I suggest dropping it and just defining `insertListCons` as ` insertList l (toInsert.map Prod.toSigma)`.

Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean:2462]: Agreed, `List.toSigma` is not really needed :)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 21]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+
+theorem getD_insertMany_list_of_contains_eq_false_const [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((_ : α) × β)} {k : α} {fallback : β}
+    (h' : (l.map Sigma.fst).contains k = false) :
+    Const.getD (m.insertMany l).1 k fallback = Const.getD m k fallback:= by
+  simp_to_model using getValueD_insertList_of_contains_eq_false
+
+theorem getD_insertMany_list_of_mem_const [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((_ : α) × β)} {k k' : α} (k_beq : k == k') {v fallback: β} (mem: ⟨k, v⟩ ∈ l)
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false )) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1049]:
```suggestion
    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)) :
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 22]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    {l : List (α × β)} {k : α}
+    (h' : (l.map Prod.fst).contains k = false) :
+    (insertMany m l).1.getKey? k = m.getKey? k := by
+  simp_to_model using getKey?_insertListConst_of_contains_eq_false
+
+theorem getKey?_insertMany_list_of_mem [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List  (α × β)}
+    {k k' : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ (l.map Prod.fst)) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1091]:
```suggestion
    (mem : k ∈ l.map Prod.fst) :
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 23]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  | cons hd tl => simp [insertListIfNewUnitₘ]
+
+theorem contains_insertManyIfNewUnit_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List α} {k : α}:
+    (insertManyIfNewUnit m l).1.contains k = (m.contains k || l.contains k) := by
+  simp_to_model using containsKey_insertListIfNewUnit
+
+theorem contains_of_contains_insertManyIfNewUnit_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List α} {k : α} (h₂ : l.contains k = false) :
+    (insertManyIfNewUnit m l).1.contains k →  m.contains k := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1232]:
```suggestion
    (insertManyIfNewUnit m l).1.contains k → m.contains k := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 24]
```diff
@@ -830,15 +833,525 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    (h : m.1.WF) {l : List α} {k fallback : α}
+    (distinct : l.Pairwise (fun a b => (a == b) = false))
+    (h': l.contains k) : m.contains k →
+    getKeyD (insertManyIfNewUnit m l).1 k fallback = getKeyD m k fallback := by
+  simp_to_model using getKeyD_insertListIfNewUnit_of_mem_of_contains
+
+theorem size_insertManyIfNewUnit_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List α}
+    (distinct : l.Pairwise (fun a b => (a == b) = false)):
+    (∀ (a : α), ¬ (m.contains a ∧ l.contains a)) →
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1318]: This way to state it has the advantage of being symmetic, but it has the disadvantage of not being in `simp`-normal form, as we have the `simp` lemma `not_and`. For this reason, I would suggest changing this argument to `(∀ (a : α), m.contains a → l.contains a = false)` here and everywhere else.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 25]
```diff
@@ -1827,4 +1903,1213 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+        intro x x_mem
+        specialize left x x_mem
+        false_or_by_contra
+        rename_i h'
+        simp only [Bool.not_eq_false] at h'
+        have hd_x: hd.fst == x.fst :=  BEq.trans h h'
+        rw [hd_x] at left
+        simp only [Bool.true_eq_false] at left
+      | inr h =>
+        apply And.right (distinct_both h)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2307]:
```suggestion
theorem perm_insertList [BEq α] [EquivBEq α]
    {l toInsert : List ((a : α) × β a)}
    (distinct_l : DistinctKeys l)
    (distinct_toInsert : toInsert.Pairwise (fun a b => (a.1 == b.1) = false))
    (distinct_both : ∀ (a : α), ¬ (containsKey a l ∧ (toInsert.map Sigma.fst).contains a)) :
    Perm (insertList l toInsert) (l ++ toInsert) := by
  rw [← DistinctKeys.def] at distinct_toInsert
  simp only [not_and, Bool.not_eq_true] at distinct_both
  induction toInsert generalizing l with
  | nil => simp only [insertList, List.append_nil, Perm.refl]
  | cons hd tl ih =>
      simp only [List.map_cons, List.contains_cons, Bool.or_eq_false_iff] at distinct_both
      refine (insertList_cons_perm distinct_l distinct_toInsert).trans ?_
      rw [insertEntry_of_containsKey_eq_false]
      · refine (Perm.cons _ (ih distinct_l (distinct_toInsert).tail ?_)).trans List.perm_middle.symm
        exact fun a ha => (distinct_both a ha).2
      · simp only [containsKey_insertList, Bool.or_eq_false_iff, ← containsKey_eq_contains_map_fst]
        refine ⟨Bool.not_eq_true _ ▸ fun h => ?_, distinct_toInsert.containsKey_eq_false⟩
        simpa using (distinct_both _ h).1

theorem length_insertList [BEq α] [EquivBEq α]
    {l toInsert : List ((a : α) × β a)}
    (distinct_l : DistinctKeys l)
    (distinct_toInsert : toInsert.Pairwise (fun a b => (a.1 == b.1) = false))
    (distinct_both : ∀ (a : α), ¬ (containsKey a l ∧ (toInsert.map Sigma.fst).contains a)) :
    (insertList l toInsert).length = l.length + toInsert.length := by
  simpa using (perm_insertList distinct_l distinct_toInsert distinct_both).length_eq
```

(note that `perm_insertList` is currently unused.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 26]
```diff
@@ -37,6 +38,14 @@ theorem assoc_induction {motive : List ((a : α) × β a) → Prop} (nil : motiv
   | [] => nil
   | ⟨_, _⟩ :: _ => cons _ _ _ (assoc_induction nil cons _)
 
+theorem keys_def {l: List ((a : α ) × β a)}:
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:41]: This already exists as `keys_eq_map`.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 27]
```diff
@@ -163,6 +172,35 @@ theorem getValueCast?_cons_self [BEq α] [LawfulBEq α] {l : List ((a : α) × 
     getValueCast? k (⟨k, v⟩ :: l) = some v := by
   rw [getValueCast?_cons_of_true BEq.refl, cast_eq]
 
+theorem getValueCast?_of_mem [BEq α] [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:175]: This seems to be unused

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 28]
```diff
@@ -979,6 +1038,13 @@ theorem insertEntry_of_containsKey_eq_false [BEq α] {l : List ((a : α) × β a
     (h : containsKey k l = false) : insertEntry k v l = ⟨k, v⟩ :: l := by
   simp [insertEntry, h]
 
+theorem perm_insertEntry_of_containsKey_eq_false [BEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:1041]: Unused?

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 29]
```diff
@@ -1827,4 +1903,1213 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+    rw [BEq.comm]
+    conv => left; left; rw [Bool.or_comm]
+    rw [Bool.or_assoc]
+
+theorem containsKey_of_containsKey_insertList [BEq α] [PartialEquivBEq α]
+    {l toInsert : List ((a : α) × β a)} {k : α} (h₁ : containsKey k (insertList l toInsert))
+    (h₂ : (toInsert.map Sigma.fst).contains k = false) : containsKey k l := by
+  rw [containsKey_insertList, h₂] at h₁; simp at h₁; exact h₁
+
+theorem getValueCast?_insertList_of_contains_eq_false [BEq α] [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:1982]: If you look at the rest of this file, you will notice that most of the properties of the various query functions are proved by first proving the relevant property for `getEntry?` (which is the most general query function) and then deriving everything using the various functions `contains_eq_getEntry?`, `get?_eq_getEntry` and so on. Have you considered this approach? It seems to me that from this point of view, `insertList` should be basically completely characterized by the following lemma:
```lean
theorem getEntry?_insertList [BEq α] [EquivBEq α]
    {l toInsert : List ((a : α) × β a)}
    (distinct_l : DistinctKeys l)
    (distinct_toInsert : toInsert.Pairwise (fun a b => (a.1 == b.1) = false)) (k : α) :
    getEntry? k (insertList l toInsert) = (getEntry? k toInsert).or (getEntry? k l) := by
  induction toInsert generalizing l with
  | nil => simp [insertList]
  | cons h t ih =>
      rw [getEntry?_of_perm distinct_l.insertList
        (insertList_cons_perm distinct_l (DistinctKeys.def.2 distinct_toInsert)),
        getEntry?_insertEntry]
      cases hk : h.1 == k
      · simp only [Bool.false_eq_true, ↓reduceIte]
        rw [ih distinct_l distinct_toInsert.tail, getEntry?_cons_of_false hk]
      · simp only [↓reduceIte]
        rw [getEntry?_cons_of_true hk, Option.some_or]
```

File: src/Std/Data/DHashMap/Basic.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Basic.lean]: I think this is resolved :)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Renamed according to one of the comments below.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 24 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: I did not find many occurrences. I hope I did not miss anything.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean (hunk 29 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean:1938]: I did not think of this but it sounds like it's worth a try!

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 30]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  simp_to_model using length_insertList
+
+theorem isEmpty_insertMany_list_eq_false_of_isEmpty_eq_false [EquivBEq α] [LawfulHashable α]
+    (h : m.1.WF) {l : List ((a : α) × β a)}:
+    (m.1.isEmpty = false) → (m.insertMany l).1.1.isEmpty = false := by
+  simp_to_model using isEmpty_insertList_eq_false_of_isEmpty_eq_false
+
+theorem isEmpty_insertMany_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((a : α) × β a)} :
+    (m.insertMany l).1.1.isEmpty ↔ m.1.isEmpty ∧ l.isEmpty := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:999]: `isEmpty` is `bool`-valued, so this should be stated as `(m.insertMany l).1.1.isEmpty = m.1.isEmpty && l.isEmpty`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 31]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    (m.insertMany l).1.getKeyD k' fallback = k := by
+  simp_to_model using getKeyD_insertList_of_mem
+
+theorem size_insertMany_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((a : α) × β a)} {distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)} :
+    (∀ (a : α), m.contains a -> (l.map Sigma.fst).contains a = false) →
+    (m.insertMany l).1.1.size = m.1.size + l.length := by
+  simp_to_model using length_insertList
+
+theorem isEmpty_insertMany_list_eq_false_of_isEmpty_eq_false [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:992]: Is this really needed given that it follows immediately from the next result?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 32]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+
+theorem get?_constInsertMany_list_of_contains_eq_false [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List (α × β)} {k : α}
+    (h' : (l.map Prod.fst).contains k = false) :
+    get? (insertMany m l).1 k = get? m k := by
+  simp_to_model using getValue?_insertListConst_of_contains_eq_false
+
+theorem get?_constInsertMany_list_of_mem [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List (α × β)} {k k' : α} (k_beq : k == k') {v : β} (mem: ⟨k, v⟩ ∈ l)
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false )) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1166]:
```suggestion
    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)) :
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 33]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    {h'} :
+    (insertMany m l).1.getKey k h' =
+    m.getKey k (contains_of_contains_constInsertMany_list _ h h' h₁) := by
+  simp_to_model using getKey_insertListConst_of_contains_eq_false
+
+theorem getKey_constInsertMany_list_of_mem [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List (α × β)}
+    {k k' : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ (l.map Prod.fst))
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1108]:
```suggestion
    (mem : k ∈ l.map Prod.fst)
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 34]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    (insertMany m l).1.1.isEmpty ↔ m.1.isEmpty ∧ l.isEmpty := by
+  simp_to_model using isEmpty_insertListConst
+
+theorem get?_constInsertMany_list_of_contains_eq_false [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List (α × β)} {k : α}
+    (h' : (l.map Prod.fst).contains k = false) :
+    get? (insertMany m l).1 k = get? m k := by
+  simp_to_model using getValue?_insertListConst_of_contains_eq_false
+
+theorem get?_constInsertMany_list_of_mem [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1164]: I guess strictly speaking you're missing a fourth variant of this lemma, relating the (non-const) `get?` to `Const.insertMany`. On the other hand, I'm now starting to think that it would have been easier to just provide `get?_insertMany_list_of_mem` and `Const.get?_constInsertMany_list_of_mem` and have the user use `Const.get?_eq_get?` to rewrite their goal to match one of these. Then we could rename `Const.get?_constInsertMany_list_of_mem` back to `Const.get?_insertMany_list_of_mem` which is  simpler.

I'm not decided what the best approach is here. What do you think?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 35]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    {l : List ((a : α) × β a)}
+    {k k' fallback : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ (l.map Sigma.fst)) :
+    (m.insertMany l).1.getKeyD k' fallback = k := by
+  simp_to_model using getKeyD_insertList_of_mem
+
+theorem size_insertMany_list [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((a : α) × β a)} {distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)} :
+    (∀ (a : α), m.contains a -> (l.map Sigma.fst).contains a = false) →
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:988]:
```suggestion
    (∀ (a : α), m.contains a → (l.map Sigma.fst).contains a = false) →
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 36]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+theorem get_insertMany_list_of_contains_eq_false [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((_ : α) × β)} {k : α}
+    (h₁ : (l.map Sigma.fst).contains k = false) {h'}:
+    Const.get (m.insertMany l).1 k h' =
+    Const.get m k (contains_of_contains_insertMany_list _ h h' h₁) := by
+  simp_to_model using getValue_insertList_of_contains_eq_false
+
+theorem get_insertMany_list_of_mem [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List ((_ : α) × β)} {k k' : α} (k_beq : k == k') {v : β} (mem : ⟨k, v⟩ ∈ l)
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false )) {h'}:
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1027]:
```suggestion
    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)) {h'}:
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 37]
```diff
@@ -830,15 +833,526 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  simp_to_model using getValue!_insertListConst_of_mem
+
+theorem getD_constInsertMany_list_of_contains_eq_false [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List (α × β)} {k : α} {fallback : β}
+    (h' : (l.map Prod.fst).contains k = false) :
+    getD (insertMany m l).1 k fallback = getD m k fallback:= by
+  simp_to_model using getValueD_insertListConst_of_contains_eq_false
+
+theorem getD_constInsertMany_list_of_mem [EquivBEq α] [LawfulHashable α] (h : m.1.WF)
+    {l : List (α × β)} {k k' : α} (k_beq : k == k') {v fallback: β} (mem: ⟨k, v⟩ ∈ l)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1202]:
```suggestion
    {l : List (α × β)} {k k' : α} (k_beq : k == k') {v fallback : β} (mem : ⟨k, v⟩ ∈ l)
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 34 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:1164]: I'm inclined towards only keeping the `Const.get?_constInsertMany_list_of_mem` variants (and renaming them).

File: src/Std/Data/DHashMap/Internal/List/Associative.lean (hunk 29 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean:1989]: I have addressed this now where applicable. Feel free to take a look and tell me if this is more or less what you had in mind :)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 31 above)
Comment (monsterkrampe) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: I removed these results.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 38]
```diff
@@ -830,15 +833,463 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    {l : List ((a : α) × β a)} {k k' : α} (k_beq : k == k') {v : β k}
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : ⟨k, v⟩ ∈ l)
+    {h'} :
+    (m.insertMany l).1.get k' h' = cast (by congr; apply LawfulBEq.eq_of_beq k_beq) v := by
+  simp_to_model using getValueCast_insertList_of_mem
+
+theorem get!_insertMany_list_of_contains_eq_false [LawfulBEq α] (h : m.1.WF)
+    {l : List ((a : α) × β a)} {k : α} [Inhabited (β k)]
+    (h' : (l.map (Sigma.fst)).contains k = false) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:903]:
```suggestion
    (h' : (l.map Sigma.fst).contains k = false) :
```
(also elsewhere)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 39]
```diff
@@ -830,15 +833,463 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    [Inhabited α] (h : m.1.WF) {l : List α} {k k' : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a == b) = false))
+    (mem : k ∈ l) : contains m k = false →
+    getKey! (insertManyIfNewUnit m l).1 k' = k := by
+  simp_to_model using getKey!_insertListIfNewUnit_of_mem_of_contains_eq_false
+
+theorem getKey!_insertManyIfNewUnit_list_mem_of_contains_of_contains [EquivBEq α] [LawfulHashable α]
+    [Inhabited α] (h : m.1.WF) {l : List α} {k : α}
+    (distinct : l.Pairwise (fun a b => (a == b) = false))
+    (h': l.contains k) : m.contains k →
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1234]:
```suggestion
    (h' : l.contains k) : m.contains k →
```
(also elsewhere)

**Review by TwoFX — COMMENTED** [review]
`RawLemmas.lean` is looking pretty good now, you should be able to start adding the user-facing lemmas after addressing these final two style remarks, but please don't forget about https://github.com/leanprover/lean4/pull/6211#discussion_r1866208628 (which GitHub unhelpfully doesn't show on the PR page...)

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 40]
```diff
@@ -1827,4 +1859,1010 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+  | cons hd tl ih =>
+    rw [insertList, List.isEmpty_cons, ih, isEmpty_insertEntry]
+    simp
+
+section
+variable {β : Type v}
+
+-- TODO: this should be unified with Mathlib...
+/-- Internal implementation detail of the hash map -/
+def Prod.toSigma_HashMapInternal (p : α × β) : ((_ : α) × β) := ⟨p.fst, p.snd⟩
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2235]: Just can just call this `Prod.toSigma` since we're inside the internal hash map namespace here.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 41]
```diff
@@ -1827,4 +1859,1010 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+
+@[simp]
+theorem Prod.fst_comp_toSigma_HashMapInternal :
+    Sigma.fst ∘ Prod.toSigma_HashMapInternal = @Prod.fst α β := by
+  apply funext
+  simp [Prod.toSigma_HashMapInternal]
+
+-- TODO: maybe insertList_prod would be a better name?
+/-- Internal implementation detail of the hash map -/
+def insertListConst [BEq α] (l: List ((_ : α) × β)) (toInsert: List (α × β)) : List ((_ : α) × β) :=
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2245]:
```suggestion
def insertListConst [BEq α] (l : List ((_ : α) × β)) (toInsert: List (α × β)) : List ((_ : α) × β) :=
```

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 42]
```diff
@@ -1827,4 +1859,1010 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+    {l toInsert : List ((a : α) × β a)} {k : α}
+    (distinct_l : DistinctKeys l)
+    (distinct_toInsert : toInsert.Pairwise (fun a b => (a.1 == b.1) = false))
+    (contains : containsKey k toInsert = true) :
+    getEntry? k (insertList l toInsert) = getEntry? k toInsert := by
+  rw [getEntry?_insertList distinct_l distinct_toInsert]
+  rw [containsKey_eq_isSome_getEntry?] at contains
+  exact Option.or_of_isSome contains
+
+theorem getEntry?_of_mem [BEq α] [PartialEquivBEq α]
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean:1949]: It is a bit further up now, but it cant be directly next to `getEntry?` as it requires lemmas from `DistinctKeys`. It is now below those lemmas.

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 43]
```diff
@@ -752,18 +768,76 @@ end Raw
...
+  induction l generalizing m with
+  | nil => simp [Const.insertListₘ, insertListConst, insertList]
+  | cons hd tl ih =>
+    simp only [Const.insertListₘ, insertListConst]
+    apply Perm.trans
+    apply ih (wfImp_insert h)
+    unfold insertListConst
+    apply List.insertList_perm_of_perm_first
+    apply toListModel_insert h
+    apply (wfImp_insert h).distinct
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean:799]: Please always use focusing dots if there are multiple goals. In this case, you should do
```suggestion
    apply Perm.trans
    · apply ih (wfImp_insert h)
    · unfold insertListConst
      apply List.insertList_perm_of_perm_first
      · apply toListModel_insert h
      · apply (wfImp_insert h).distinct
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 44]
```diff
@@ -964,4 +964,848 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    {l : List ((a : α) × β a)}
+    {k k' : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ l.map Sigma.fst)
+    {h'} :
+    (m.insertMany l).getKey k' h' = k :=
+  Raw₀.getKey_insertMany_list_of_mem ⟨m.1, _⟩ m.2 k_beq distinct mem
+
+theorem getKey!_insertMany_list_of_contains_eq_false [EquivBEq α] [LawfulHashable α] [Inhabited α]
+     {l : List ((a : α) × β a)} {k : α}
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1079]:
```suggestion
    {l : List ((a : α) × β a)} {k : α}
```
there are more instances of this.

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 45]
```diff
@@ -752,18 +768,76 @@ end Raw
...
+
 theorem wfImp_insertMany [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α] {ρ : Type w}
     [ForIn Id ρ ((a : α) × β a)] {m : Raw₀ α β} {l : ρ} (h : Raw.WFImp m.1) :
     Raw.WFImp (m.insertMany l).1.1 :=
   Raw.WF.out ((m.insertMany l).2 _ Raw.WF.insert₀ (.wf m.2 h))
 
+theorem toListModel_insertMany_list [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α]
+    {m : Raw₀ α β} {l : List ((a : α) × (β a))} (h : Raw.WFImp m.1) :
+    Perm (toListModel (insertMany m l).1.1.buckets) (List.insertList (toListModel m.1.buckets) l) := by
+  rw[insertMany_eq_insertListₘ]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean:781]:
```suggestion
  rw [insertMany_eq_insertListₘ]
```

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 46]
```diff
@@ -752,18 +768,76 @@ end Raw
...
+  apply toListModel_insertListₘ
+  exact h
+
+/-! # `Const.insertListₘ` -/
+
+theorem Const.toListModel_insertListₘ {β : Type v} [BEq α] [Hashable α] [EquivBEq α]
+    [LawfulHashable α] {m : Raw₀ α (fun _ => β)}{l : List (α × β)} (h : Raw.WFImp m.1):
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/WF.lean:788]:
```suggestion
    [LawfulHashable α] {m : Raw₀ α (fun _ => β)} {l : List (α × β)} (h : Raw.WFImp m.1) :
```
(more examples of this elsewhere)

File: src/Std/Data/DHashMap/Internal/Model.lean [hunk 47]
```diff
@@ -485,6 +516,33 @@ theorem Const.getThenInsertIfNew?_eq_get?ₘ [BEq α] [Hashable α] (m : Raw₀
...
+  suffices ∀ (t : { m' // ∀ (P : Raw₀ α (fun _ => Unit) → Prop),
+      (∀ {m'' a b}, P m'' → P (m''.insertIfNew a b)) → P m → P m'}),
+      (List.foldl (fun m' p => ⟨m'.val.insertIfNew p (), fun P h₁ h₂ => h₁ (m'.2 _ h₁ h₂)⟩) t l).val =
+    Const.insertListIfNewUnitₘ t.val l from this _
+  intro t
+  induction l generalizing m with
+  | nil => simp [insertListIfNewUnitₘ]
+  | cons hd tl ih =>
+    simp only [List.foldl_cons,insertListIfNewUnitₘ]
+    apply ih
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/Model.lean:545]:
```suggestion
    apply ih
    
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 48]
```diff
@@ -839,6 +842,879 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
...
+  rw [getKey?_insertMany_list_of_mem _ Raw.WF.empty₀ k_beq distinct mem]
+
+theorem getKey_insertMany_empty_list_of_mem [EquivBEq α] [LawfulHashable α]
+    {l : List (α × β)}
+    {k k' : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ l.map Prod.fst)
+    {h'} :
+    (insertMany (empty : Raw₀ α (fun _ => β)) l).1.getKey k' h' = k := by
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1555]:
```suggestion
```
(also elsewhere)

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 49]
```diff
@@ -964,4 +964,848 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem get?_insertMany_list_of_contains_eq_false [EquivBEq α] [LawfulHashable α]
+    {l : List (α × β)} {k : α}
+    (h' : (l.map Prod.fst).contains k = false) :
+    get? (insertMany m l) k = get? m k :=
+  Raw₀.Const.get?_insertMany_list_of_contains_eq_false ⟨m.1, _⟩ m.2 h'
+
+theorem get?_insertMany_list_of_mem [EquivBEq α] [LawfulHashable α]
+    {l : List (α × β)} {k k' : α} (k_beq : k == k') {v : β}
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)) (mem : ⟨k, v⟩ ∈ l)
+     :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1237]: The colon should not be on its own line unless there is a good reason to break that rule.
```suggestion
    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)) (mem : ⟨k, v⟩ ∈ l) :
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 50]
```diff
@@ -839,6 +842,879 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
...
+  apply (size_insertMany_list_le _ Raw.WF.empty₀)
+
+theorem isEmpty_insertMany_empty_list [EquivBEq α] [LawfulHashable α]
+    {l : List (α × β)} :
+    (insertMany (empty : Raw₀ α (fun _ => β)) l).1.1.isEmpty = l.isEmpty := by
+  simp [isEmpty_insertMany_list _ Raw.WF.empty₀]
+
+@[simp]
+theorem insertManyIfNewUnit_empty_list_nil [EquivBEq α] [LawfulHashable α] :
+    insertManyIfNewUnit (empty : Raw₀ α (fun _ => Unit))  ([] : List α) =
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1608]:
```suggestion
    insertManyIfNewUnit (empty : Raw₀ α (fun _ => Unit)) ([] : List α) =
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 51]
```diff
@@ -839,6 +842,879 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
...
+    (empty : Raw₀ α (fun _ => Unit)) := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1609]: When splitting up an expression, indent lines after the first one.
```suggestion
      (empty : Raw₀ α (fun _ => Unit)) := by
```

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 52]
```diff
@@ -1039,14 +1043,881 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) {k : α} :
...
+    {l : List α} {k : α} {fallback : Unit} :
+    getD (insertManyIfNewUnit m l) k fallback = () := by
+  simp
+
+end Const
+end Raw
+
+namespace Raw
+variable [BEq α] [Hashable α]
+open Internal.Raw Internal.Raw₀
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean:1531]:
```suggestion
namespace Raw

variable [BEq α] [Hashable α]

open Internal.Raw Internal.Raw₀
```
(also elsewhere)

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 53]
```diff
@@ -1039,14 +1043,881 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) {k : α} :
...
+    ofList ([] : List ((a : α) × (β a))) = empty := by
+  simp_to_raw
+  rw [Raw₀.insertMany_empty_list_nil]
+
+@[simp]
+theorem ofList_singleton {k : α} {v : β k} [EquivBEq α] [LawfulHashable α] :
+    ofList [⟨k, v⟩] = empty.insert k v := by
+  simp_to_raw
+  rw [Raw₀.insertMany_empty_list_singleton]
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean:1543]:
```suggestion
```

File: src/Std/Data/DHashMap/Internal/WF.lean (hunk 43 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/WF.lean:799]: Wrote it now in a way that a directly pass the short subproofs into the applied theorem so only one goal is ever present.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 54]
```diff
@@ -964,4 +963,855 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+namespace DHashMap
+
+@[simp]
+theorem ofList_nil [EquivBEq α] [LawfulHashable α] :
+    ofList ([] : List ((a : α) × (β a))) = ∅ :=
+  Subtype.eq (congrArg Subtype.val (Raw₀.insertMany_empty_list_nil (α := α)) :)
+
+@[simp]
+theorem ofList_singleton {k : α} {v : β k} [EquivBEq α] [LawfulHashable α] :
+    ofList [⟨k, v⟩] = empty.insert k v :=
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1443]: As discussed before:
```suggestion
    ofList [⟨k, v⟩] = ∅.insert k v :=
```
More instances elsewhere.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 55]
```diff
@@ -964,4 +963,855 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    (ofList l).size = l.length :=
+  Raw₀.size_insertMany_empty_list distinct
+
+theorem size_ofList_le [EquivBEq α] [LawfulHashable α]
+    {l : List ((a : α) × β a)} :
+    (ofList l).size ≤ l.length :=
+  Raw₀.size_insertMany_empty_list_le
+
+@[simp]
+theorem isEmpty_ofList[EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1565]:
```suggestion
theorem isEmpty_ofList [EquivBEq α] [LawfulHashable α]
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 56]
```diff
@@ -964,4 +963,855 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem get!_insertMany_list_of_mem [LawfulBEq α]
+    {l : List ((a : α) × β a)} {k k' : α} (k_beq : k == k') {v : β k} [Inhabited (β k')]
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : ⟨k, v⟩ ∈ l) :
+    (m.insertMany l).get! k' = cast (by congr; apply LawfulBEq.eq_of_beq k_beq) v :=
+  Raw₀.get!_insertMany_list_of_mem ⟨m.1, _⟩ m.2 k_beq distinct mem
+
+theorem getD_insertMany_list_of_contains_eq_false [LawfulBEq α]
+    {l : List ((a : α) × β a)} {k : α} {fallback : β k}
+    (not_mem : (l.map Sigma.fst).contains k = false) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1035]: This should probably be called `contains_eq_false` (like in the `RawLemmas.lean`) version. I also saw that you sometimes just call this `contains`. Could you unify the naming?

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 57]
```diff
@@ -964,4 +963,855 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem insertMany_list_singleton {k : α} {v : β k} :
+    m.insertMany [⟨k, v⟩] = m.insert k v :=
+  Subtype.eq (congrArg Subtype.val (Raw₀.insertMany_list_singleton ⟨m.1, m.2.size_buckets_pos⟩) :)
+
+theorem insertMany_cons {l : List ((a : α) × β a)} {k : α} {v : β k} :
+    m.insertMany (⟨k, v⟩ :: l) = (m.insert k v).insertMany l :=
+  Subtype.eq (congrArg Subtype.val (Raw₀.insertMany_cons ⟨m.1, m.2.size_buckets_pos⟩) :)
+
+@[simp]
+theorem contains_insertMany_list [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:981]: As appropriate, there should be `∈` variants of the lemmas about `contains`, see for example `mem_insert`.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 58]
```diff
@@ -964,4 +963,879 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+
+@[simp]
+theorem mem_insertMany_list [EquivBEq α] [LawfulHashable α]
+    {l : List ((a : α) × β a)} {k : α} :
+    k ∈ m.insertMany l ↔ k ∈ m ∨ (l.map Sigma.fst).contains k := by
+  simp [mem_iff_contains]
+
+theorem contains_of_contains_insertMany_list [EquivBEq α] [LawfulHashable α]
+    {l : List ((a : α) × β a)} {k : α}  (contains : (m.insertMany l).contains k)
+    (contains_eq_false: (l.map Sigma.fst).contains k = false) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:994]:
```suggestion
    (contains_eq_false : (l.map Sigma.fst).contains k = false) :
```

File: src/Std/Data/DHashMap/Internal/Model.lean [hunk 59]
```diff
@@ -455,6 +475,19 @@ theorem map_eq_mapₘ (m : Raw₀ α β) (f : (a : α) → β a → δ a) :
...
+  simp only [insertMany, Id.run, Id.pure_eq, Id.bind_eq, List.forIn_yield_eq_foldl]
+  suffices ∀ (t : { m' // ∀ (P : Raw₀ α β → Prop),
+    (∀ {m'' : Raw₀ α β} {a : α} {b : β a}, P m'' → P (m''.insert a b)) → P m → P m' }),
+      (List.foldl (fun m' p => ⟨m'.val.insert p.1 p.2, fun P h₁ h₂ => h₁ (m'.2 _ h₁ h₂)⟩) t l).val =
+    t.val.insertListₘ l from this _
+  intro t
+  induction l generalizing m with
+  | nil => simp [insertListₘ]
+  | cons hd tl ih =>
+    simp only [List.foldl_cons,insertListₘ]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/Model.lean:488]:
```suggestion
    simp only [List.foldl_cons, insertListₘ]
```

File: src/Std/Data/DHashMap/Internal/Model.lean [hunk 60]
```diff
@@ -485,6 +518,36 @@ theorem Const.getThenInsertIfNew?_eq_get?ₘ [BEq α] [Hashable α] (m : Raw₀
...
+  simp only [insertManyIfNewUnit, Id.run, Id.pure_eq, Id.bind_eq, List.forIn_yield_eq_foldl]
+  suffices ∀ (t : { m' // ∀ (P : Raw₀ α (fun _ => Unit) → Prop),
+      (∀ {m'' a b}, P m'' → P (m''.insertIfNew a b)) → P m → P m'}),
+      (List.foldl (fun m' p => ⟨m'.val.insertIfNew p (), fun P h₁ h₂ => h₁ (m'.2 _ h₁ h₂)⟩) t l).val =
+    Const.insertListIfNewUnitₘ t.val l from this _
+  intro t
+  induction l generalizing m with
+  | nil => simp [insertListIfNewUnitₘ]
+  | cons hd tl ih =>
+    simp only [List.foldl_cons,insertListIfNewUnitₘ]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/Model.lean:548]:
```suggestion
    simp only [List.foldl_cons, insertListIfNewUnitₘ]
```

File: src/Std/Data/DHashMap/Internal/Raw.lean [hunk 61]
```diff
@@ -199,10 +199,52 @@ theorem filter_val [BEq α] [Hashable α] {m : Raw₀ α β} {f : (a : α) → 
...
 
+theorem insertMany_eq [BEq α] [Hashable α] {m : Raw α β} (h : m.WF) {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] {l : ρ} :
+    m.insertMany l = Raw₀.insertMany ⟨m, h.size_buckets_pos⟩ l := by
+  simp [Raw.insertMany, h.size_buckets_pos]
+
+theorem insertMany_val [BEq α][Hashable α] {m : Raw₀ α β} {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] {l : ρ} :
+    m.val.insertMany l = m.insertMany l := by
+  simp [Raw.insertMany, m.2]
+
+theorem ofList_eq [BEq α] [Hashable α] {l: List ((a : α) × β a)} :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/Raw.lean:210]:
```suggestion
theorem ofList_eq [BEq α] [Hashable α] {l : List ((a : α) × β a)} :
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 62]
```diff
@@ -964,4 +963,879 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem ofList_singleton {k : α} {v : β k} [EquivBEq α] [LawfulHashable α] :
+    ofList [⟨k, v⟩] = (∅: DHashMap α β).insert k v :=
+  Subtype.eq (congrArg Subtype.val (Raw₀.insertMany_empty_list_singleton (α := α)) :)
+
+theorem ofList_cons [EquivBEq α] [LawfulHashable α] {k : α} {v : β k} {tl : List ((a : α) × (β a))} :
+    ofList (⟨k, v⟩ :: tl) = ((∅ : DHashMap α β).insert k v).insertMany tl :=
+  Subtype.eq (congrArg Subtype.val (Raw₀.insertMany_empty_list_cons (α := α)) :)
+
+@[simp]
+theorem contains_ofList [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1474]: `mem_ofList` seems to be missing?

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 63]
```diff
@@ -964,4 +963,879 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    unitOfList [k] = (∅ : DHashMap α (fun _ => Unit)).insertIfNew k () :=
+  Subtype.eq (congrArg Subtype.val (Raw₀.Const.insertManyIfNewUnit_empty_list_singleton (α := α)) :)
+
+theorem unitOfList_cons [EquivBEq α] [LawfulHashable α] {hd : α} {tl : List α} :
+    unitOfList (hd :: tl) =
+      insertManyIfNewUnit ((∅ : DHashMap α (fun _ => Unit)).insertIfNew hd ()) tl :=
+  Subtype.eq (congrArg Subtype.val (Raw₀.Const.insertManyIfNewUnit_empty_list_cons (α := α)) :)
+
+@[simp]
+theorem contains_unitOfList [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1747]: `memUnitOfList`?

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 64]
```diff
@@ -1827,4 +1868,1013 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+    {l : List ((_ : α) × β)} {toInsert : List (α × β)} {k : α}
+    (not_contains : (toInsert.map Prod.fst).contains k = false)
+    {h} :
+    getKey k (insertListConst l toInsert) h =
+      getKey k l (containsKey_of_containsKey_insertListConst h not_contains) := by
+    rw [← Option.some_inj]
+    rw [← getKey?_eq_some_getKey]
+    rw [getKey?_insertListConst_of_contains_eq_false]
+    . rw [getKey?_eq_some_getKey]
+    . exact not_contains
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2287]: This proof is indented too much.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 65]
```diff
@@ -1827,4 +1868,1013 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+    {l : List ((_ : α) × β)} {toInsert : List (α × β)}
+    {k k' : α} (k_beq : k == k')
+    (distinct_l : DistinctKeys l)
+    (distinct_toInsert : toInsert.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ toInsert.map Prod.fst)
+    {h} :
+    getKey k' (insertListConst l toInsert) h = k := by
+  rw [← Option.some_inj]
+  rw [← getKey?_eq_some_getKey]
+  rw [getKey?_insertListConst_of_mem]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2299]: In the entire file, please merge adjacent `rw`s where possible.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 66]
```diff
@@ -1827,4 +1868,1013 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+    {l : List ((_ : α) × β)} {toInsert : List (α × β)}
+    {k k' : α} (k_beq : k == k') {v : β}
+    (distinct_l : DistinctKeys l)
+    (distinct_toInsert : toInsert.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : ⟨k, v⟩ ∈ toInsert) :
+    getValue? k' (insertListConst l toInsert) = v := by
+  unfold insertListConst
+  rw [getValue?_eq_getEntry?]
+  have : getEntry? k' (insertList l (toInsert.map Prod.toSigma)) =
+    getEntry? k' (toInsert.map Prod.toSigma) := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2401]:
```suggestion
      getEntry? k' (toInsert.map Prod.toSigma) := byq
```

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 67]
```diff
@@ -1827,4 +1868,1013 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+  | nil => simp only [insertList, List.append_nil, Perm.refl]
+  | cons hd tl ih =>
+      simp only [List.map_cons, List.contains_cons, Bool.or_eq_false_iff] at distinct_both
+      refine (insertList_cons_perm distinct_l distinct_toInsert).trans ?_
+      rw [insertEntry_of_containsKey_eq_false]
+      · refine (Perm.cons _ (ih distinct_l (distinct_toInsert).tail ?_)).trans List.perm_middle.symm
+        exact fun a ha => (distinct_both a ha).2
+      · simp only [containsKey_insertList, Bool.or_eq_false_iff, ← containsKey_eq_contains_map_fst]
+        refine ⟨Bool.not_eq_true _ ▸ fun h => ?_, distinct_toInsert.containsKey_eq_false⟩
+        simpa using (distinct_both _ h).1
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2190]: This one is on me I think, but the indentation needs to be reduced.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 68]
```diff
@@ -1827,4 +1868,1013 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+    getValue! k l = ()  := by simp
+
+theorem getValueD_list_unit [BEq α] {l : List ((_ : α) × Unit)} {k : α} {fallback : Unit} :
+    getValueD k l fallback = ()  := by simp
+
+theorem getValue?_insertListIfNewUnit [BEq α] [PartialEquivBEq α]
+    {l : List ((_ : α) × Unit)} {toInsert : List α} {k : α}:
+    getValue? k (insertListIfNewUnit l toInsert) =
+    if containsKey k l ∨ toInsert.contains k then some () else none := by
+  simp [← containsKey_insertListIfNewUnit_iff, getValue?_list_unit]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2861]:
```suggestion
  simp [containsKey_insertListIfNewUnit, getValue?_list_unit]
```
works here, so you should be able to drop `containsKey_insertListIfNewUnit_iff`.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 69]
```diff
@@ -964,4 +963,897 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    (mem : ⟨k, v⟩ ∈ l) :
+    (m.insertMany l).get? k' = some (cast (by congr; apply LawfulBEq.eq_of_beq k_beq) v) :=
+  Raw₀.get?_insertMany_list_of_mem ⟨m.1, _⟩ m.2 k_beq distinct mem
+
+theorem get_insertMany_list_of_contains_eq_false [LawfulBEq α]
+    {l : List ((a : α) × β a)} {k : α}
+    (contains_eq_false : (l.map Sigma.fst).contains k = false)
+    {h} :
+    (m.insertMany l).get k h =
+      m.get k (contains_of_contains_insertMany_list h contains_eq_false) :=
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Lemmas.lean:1016]: Do we also have to change the lemmas for `getKey` and similar functions as they currently mention contains in their name ?

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 70]
```diff
@@ -1827,4 +1868,1013 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+  simp only [getValueD_eq_getValue?]
+  rw [getValue?_insertListConst_of_mem]
+  · rw [Option.getD_some]
+  · exact k_beq
+  · exact distinct_l
+  . exact distinct_toInsert
+  . exact mem
+
+/-- Internal implementation detail of the hash map -/
+def insertListIfNewUnit [BEq α] (l: List ((_ : α) × Unit)) (toInsert: List α) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2490]: Similarly to before, I am confident that you should be able to golf many of the proofs below using the following lemma:
```lean
theorem getEntry?_insertListIfNewUnit [BEq α] [PartialEquivBEq α] {l : List ((_ : α) × Unit)}
    {toInsert : List α} {k : α} :
    getEntry? k (insertListIfNewUnit l toInsert) =
      (getEntry? k l).or (getEntry? k (toInsert.map (⟨·, ()⟩))) := by
  induction toInsert generalizing l with
  | nil => simp [insertListIfNewUnit]
  | cons hd tl ih =>
    simp only [insertListIfNewUnit, ih, getEntry?_insertEntryIfNew, List.map_cons,
      getEntry?_cons]
    cases hhd : hd == k
    · simp
    · cases hc : containsKey hd l
      · simp only [Bool.not_false, Bool.and_self, ↓reduceIte, Option.some_or, cond_true,
          Option.or_some', Option.some.injEq]
        rw [getEntry?_eq_none.2, Option.getD_none]
        rwa [← containsKey_congr hhd]
      · simp only [Bool.not_true, Bool.and_false, Bool.false_eq_true, ↓reduceIte, cond_true,
          Option.or_some', getEntry?_eq_none]
        rw [containsKey_congr hhd, containsKey_eq_isSome_getEntry?] at hc
        obtain ⟨v, hv⟩ := Option.isSome_iff_exists.1 hc
        simp [hv]
```

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 69 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Lemmas.lean:1016]: Yes, please change every occurrence where the reasoning above applies.

[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Lemmas.lean:1016]: I guess only `getKey` needs it directly as others don't require a membership proof, but I change the others to for uniformity. I think it suffices to only change the last one of the three lemmas per operation. What do you think?

**Comment by jt0202** [comment]
changelog-library

File: src/Std/Data/DHashMap/Basic.lean [hunk 71]
```diff
@@ -328,4 +316,16 @@ instance [BEq α] [Hashable α] [Repr α] [(a : α) → Repr (β a)] : Repr (DHa
 
 end Unverified
 
+@[inline, inherit_doc Raw.ofList] def ofList [BEq α] [Hashable α] (l : List ((a : α) × β a)) :
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Basic.lean:319]: Are we in a position to do that if we only have lemmas about lists. It feels to me not general enough to call `insertMany` to be verified.

File: src/Std/Data/HashSet/Lemmas.lean [hunk 72]
```diff
@@ -373,6 +373,218 @@ theorem mem_toList [LawfulBEq α] [LawfulHashable α] {k : α} :
...
+theorem get_insertMany_list_of_contains_eq_false_of_mem [EquivBEq α] [LawfulHashable α]
+    {l : List α}
+    {k k' : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a == b) = false))
+    (contains_eq_false : m.contains k = false) (mem : k ∈ l) {h} :
+    get (insertMany m l) k' h = k :=
+  HashMap.getKey_insertManyIfNewUnit_list_of_contains_eq_false_of_mem
+    k_beq distinct contains_eq_false mem
+
+theorem get_insertMany_list_mem_of_mem [EquivBEq α] [LawfulHashable α]
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/HashSet/Lemmas.lean:437]: It is not needed. It seems to be a copying error when I renamed these, as it is correct in DHashMap and propagates from HashMap.

File: src/Std/Data/HashSet/Lemmas.lean [hunk 73]
```diff
@@ -373,6 +373,218 @@ theorem mem_toList [LawfulBEq α] [LawfulHashable α] {k : α} :
...
+  HashMap.getKeyD_insertManyIfNewUnit_list_of_mem mem
+
+theorem size_insertMany_list [EquivBEq α] [LawfulHashable α]
+    {l : List α}
+    (distinct : l.Pairwise (fun a b => (a == b) = false)) :
+    (∀ (a : α), m.contains a → l.contains a = false) →
+      (insertMany m l).size = m.size + l.length :=
+  HashMap.size_insertManyIfNewUnit_list distinct
+
+theorem size_insertMany_list_le [EquivBEq α] [LawfulHashable α]
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/HashSet/Lemmas.lean:489]: Would that be `size_le_insertMany_list` or `size_le_size_insertMany_list`

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 74]
```diff
@@ -964,4 +963,885 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    {l : List ((a : α) × β a)}
+    {k k' fallback : α} (k_beq : k == k')
+    (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false))
+    (mem : k ∈ l.map Sigma.fst) :
+    (m.insertMany l).getKeyD k' fallback = k :=
+  Raw₀.getKeyD_insertMany_list_of_mem ⟨m.1, _⟩ m.2 k_beq distinct mem
+
+theorem size_insertMany_list [EquivBEq α] [LawfulHashable α]
+    {l : List ((a : α) × β a)} (distinct : l.Pairwise (fun a b => (a.1 == b.1) = false)) :
+    (∀ (a : α), m.contains a → (l.map Sigma.fst).contains a = false) →
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Lemmas.lean:1114]: Do you have an example of a lemma that uses `getKey?` and has this error? I don't find any. In `size_insertMay_list` it is changed.

File: src/Std/Data/HashSet/Lemmas.lean (hunk 73 above)
[the remark this answers is not in the document]
Comment (monsterkrampe) [reply src/Std/Data/HashSet/Lemmas.lean:489]: I'll go ahead an implement this using `size_le_size_insertMany_list` for now. Let me know if you prefer some other name :)

[the remark this answers is not in the document]
Comment (monsterkrampe) [reply src/Std/Data/HashSet/Lemmas.lean:494]: (done)

File: src/Std/Data/DHashMap/Basic.lean (hunk 71 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Basic.lean:312]: Good point. Let's keep it as is for now.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 74 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Lemmas.lean]: I was thinking of things like `getKeyD_insertManyIfNewUnit_list_of_contains_eq_false_of_mem` which has a hypothesis `m.contains k = false` that could be stated as `¬k ∈ m`.

[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Lemmas.lean]: Ok, I didn't consider it to be applicable to the negative version of the statement. I can do that.

[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Lemmas.lean]: done

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 75]
```diff
@@ -964,4 +963,907 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+  simp
+
+end Const
+
+end DHashMap
+
+namespace DHashMap
+
+@[simp]
+theorem ofList_nil [EquivBEq α] [LawfulHashable α] :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1470]: A very small number of lemmas that characterize the hash maps up to equality (= `ofList_nil` , `ofList_singleton`, `ofList_cons`, and variants of `insertMany`/`insertManyIfNewUnit`) should trivially hold without assuming `EquivBEq` and `LawfulHashable` (possibly after adjusting the corresponding lemma in `Internal/RawLemmas.lean`).

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 76]
```diff
@@ -964,4 +963,907 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+  simp [mem_iff_contains]
+
+theorem mem_of_mem_insertManyIfNewUnit_list [EquivBEq α] [LawfulHashable α]
+    {l : List α} {k : α} (contains_eq_false : l.contains k = false) :
+    k ∈ insertManyIfNewUnit m l → k ∈ m :=
+  Raw₀.Const.contains_of_contains_insertManyIfNewUnit_list ⟨m.1, _⟩ m.2 contains_eq_false
+
+theorem getKey?_insertManyIfNewUnit_list_of_not_mem_of_contains_eq_false
+    [EquivBEq α] [LawfulHashable α] {l : List α} {k : α}
+    (not_mem : ¬ k ∈ m) (contains_eq_false' : l.contains k = false) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1340]:
```suggestion
    (not_mem : ¬ k ∈ m) (contains_eq_false : l.contains k = false) :
```

File: src/Std/Data/HashSet/Lemmas.lean [hunk 77]
```diff
@@ -373,6 +373,222 @@ theorem mem_toList [LawfulBEq α] [LawfulHashable α] {k : α} :
...
+  HashMap.mem_of_mem_insertManyIfNewUnit_list contains_eq_false
+
+theorem get?_insertMany_list_of_not_mem_of_contains_eq_false
+    [EquivBEq α] [LawfulHashable α] {l : List α} {k : α}
+    (not_mem : ¬ k ∈ m) (contains_eq_false : l.contains k = false) :
+    get? (insertMany m l) k = none :=
+  HashMap.getKey?_insertManyIfNewUnit_list_of_not_mem_of_contains_eq_false
+    not_mem contains_eq_false
+
+theorem get?_insertMany_list_of_not_mem_false_of_mem [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/HashSet/Lemmas.lean:415]: I think this should be called `get?_insertMany_list_of_not_mem_of_mem`.

**Review by TwoFX — APPROVED** [review]
Great work, thank you so much!

**Comment by monsterkrampe** [comment]
Our pleasure! It was fun and very insightful :)
Thanks for your thorough reviews as well!

**Comment by jt0202** [comment]
Thanks from my side as well for all the reviews and your patience.
